US08236826B2
3,4-dichloro-N-{6-[4-(3,5-dioxoisoxazolidine-4-ylidenemethyl)phenoxy]pyridin-3-yl}benzamide
To a solution of hydroxylamine hydrochloride (500 mg, 1.0 mmol) in water (0.2 mL) were added sodium carbonate (1.05 g, 9.91 mmol) and a solution of 2-{4-[5-(3,4-dichlorobenzoylamino)pyridin-2-yloxy]benzylidene}malonic acid dimethyl ester (500 mg, 1.0 mmol) in THF (5 mL). To the resulting solution was subsequently added methanol (5 mL) and stirred for 8 hours at 60° C. The reaction solution was concentrated under reduced pressure. Water was added to the residue, and extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated sodium bicarbonate solution and brine, dried over anhydrous magnesium sulfate, and evaporated. The residue was purified by silica gel column chromatography (dichloromethane:methanol=30:1). To the resulting white precipitate was added ethyl acetate, filtered, and the filtrate was washed with diethyl ether, to thereby yield 105 mg of the title compound.

reactant | hydroxylamine hydrochloride | 1.0 mmol, 500 mg | Cl.NO
reactant | sodium carbonate | 9.91 mmol, 1.05 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-{4-[5-(3,4-dichlorobenzoylamino)pyridin-2-yloxy]benzylidene}malonic acid dimethyl ester | 1.0 mmol, 500 mg | COC(C(C(=O)OC)=CC1=CC=C(C=C1)OC1=NC=C(C=C1)NC(C1=CC(=C(C=C1)Cl)Cl)=O)=O | C24H18Cl2N2O6
reactant | methanol | 5 mL | CO | CH4O
solvent | water | 0.2 mL | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3,4-dichloro-N-{6-[4-(3,5-dioxoisoxazolidine-4-ylidenemethyl)phenoxy]pyridin-3-yl}benzamide | ClC=1C=C(C(=O)NC=2C=NC(=CC2)OC2=CC=C(C=C2)C=C2C(NOC2=O)=O)C=CC1Cl | C22H13Cl2N3O5
